### ISSUE TITLE
some simprocs can create proofs that are rejected by the kernel

### ISSUE THREAD

**Issue by Rob23oba** [leanprover/lean4#7557]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Many simprocs for operation reduction, e.g. for `<` on `Nat`, don't check which instances are used or may create proofs using wrong `Decidable` instances.

### Steps to Reproduce

Example 1 (non-canonical instance):
```lean
/--
error: (kernel) application type mismatch
  eq_true_of_decide (Eq.refl true)
argument has type
  true = true
but function has type
  decide (1 < 10) = true → (1 < 10) = True
-/
#guard_msgs in
example : True := by
  let inst : LT Nat := ⟨fun x y => y < x⟩
  have : ∀ x y : Nat, Decidable (x < y) := fun x y => by
    simp only [inst]
    infer_instance
  suffices 1 < 10 from trivial
  simp
```

Example 2 (bad decidable instance):
```lean
/--
error: (kernel) application type mismatch
  eq_true_of_decide (Eq.refl true)
argument has type
  true = true
but function has type
  decide (1 < 10) = true → (1 < 10) = True
-/
#guard_msgs in
example : True := by
  have : ∀ x y : Nat, Decidable (x < y) := fun _ _ => Classical.propDecidable _
  suffices 1 < 10 from trivial
  simp
```

### Versions

4.19.0-nightly-2025-03-18

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Right, this is known, and there are comment like the following in the code:
```
/-
The following code assumes users did not override the `Int` instances for the arithmetic operators.
If they do, they must disable the following `simprocs`.
-/
```

But thanks for filing a publicly visible issue, this allows us to track the impact of that design, and maybe revise it.

The issue with decidable instances may be a separate one? Wasn’t there some discussion about that just recently, maybe with @eric-wieser, somewhere?

Are these issues blocking practical work?

**Comment by nomeata** [comment]
Is the one on decidable instances just this issue, or is it separate: https://github.com/leanprover/lean4/issues/7444

**Comment by Kha** [comment]
I think we can close this as duplicate even if it describes more cases. They will still be linked.
